US06949579B2
N-[6-(3,5-dichlorophenyl)-1H-indazol-3-yl]butanamide
11.2 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1 g of N-[6-(3,5-dichlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of tetrahydrofuran, the reaction medium is then heated at about 65° C. for 18 hours and the heating is stopped to add 75 cm3 of ethyl acetate. The organic phase is washed with 2×50 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 50° C.), 290 mg of N-[6-(3,5-dichlorophenyl)-1H-indazol-3-yl]butanamide are obtained in the form of a white product.

reactant | tetrabutylammonium fluoride | 11.2 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(3,5-dichlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC=1C=C(C=C(C1)Cl)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C23H29Cl2N3O2Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | N-[6-(3,5-dichlorophenyl)-1H-indazol-3-yl]butanamide | ClC=1C=C(C=C(C1)Cl)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C17H15Cl2N3O
